US04959293
A suspension of 1.3 gm (33 mmole) of sodium hydride dispersion (60%) in 12 mL of diethyl ether and one drop of absolute ethanol was cooled in an ice bath under nitrogen. A mixture was prepared of 2.0 gm (11 mmole) cyclododecanone and 2.4 gm (33 mmole of ethyl formate in 20 mL of diethyl ether. This second solution was added, dropwise, to the sodium hydride suspension. The resulting mixture was stirred in the ice bath for about 3 hours after which time it was allowed to come to room temperature. After stirring at room temperature overnight, a solution of 3.99 gm (33 mmole) p-toluenesulfonyl azide in 25 mL of diethyl ether was added dropwise. The resulting mixture was stirred at room temperature for about 3 hours. Ten mL of water was added and the organic layer removed. This organic layer was then washed with 100 mL of 10% NaOH. The aqueous layer was extracted with three portions of ethyl acetate. The combined organic phases were dried over sodium sulfate and then concentrated in vacuo (less than 30° C.). The residue was subjected to flash chromatography on 40 microns silica gel to give 1.0 gm of 2-diazocyclododecan-1-one as a bright yellow-orange solid, MP 43°-44° C. Elemental analysis calculated for C12H20N2O: C: 69.19; H: 9.68; N: 13.45. Found: C: 69.13; H: 9.69; N: 13.57. Pmr, cmr, ir, and UV spectra consistent with the desired product were obtained.

reactant | sodium hydride | 33 mmole, 1.3 gm | [H-].[Na+]
reactant | cyclododecanone | 11 mmole, 2.0 gm | C1(CCCCCCCCCCC1)=O | C12H22O
reactant | ethyl formate | 33 mmole | C(=O)OCC | C3H6O2
reactant | p-toluenesulfonyl azide | 33 mmole, 3.99 gm | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
solvent | diethyl ether | 12 mL | C(C)OCC | C4H10O
catalyst | ethanol | one drop | C(C)O | C2H6O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | water | Ten mL | O | H2O
product | 2-diazocyclododecan-1-one | 1.0 gm | [N+](=[N-])=C1C(CCCCCCCCCC1)=O | C12H20N2O
